US06906072B1
Example 69 1-[(4-Cyano-4-(3-cyano-5-thienyl)-5-methylhexyl]-4-[2-(3-cyanophenoxy)ethyl]piperazine
The title compound was obtained as a pale yellow oil (0.15 g, 58%) from 4-cyano-4-(3-cyano-5-thienyl)-5-methylhexanol and 1-[2-(3-cyanophenoxy)ethyl]piperazine in the same manner as in Example 68.

reactant | 4-cyano-4-(3-cyano-5-thienyl)-5-methylhexanol | C(#N)C(CCCO)(C(C)C)C1=CC(=CS1)C#N | C13H16N2OS
reactant | 1-[2-(3-cyanophenoxy)ethyl]piperazine | C(#N)C=1C=C(OCCN2CCNCC2)C=CC1 | C13H17N3O
product | (4-Cyano-4-(3-cyano-5-thienyl)-5-methylhexyl]-4-[2-(3-cyanophenoxy)ethyl]piperazine | C(#N)C(CCCN1CCN(CC1)CCOC1=CC(=CC=C1)C#N)(C(C)C)C1=CC(=CS1)C#N | C26H31N5OS
